US04618677
The procedure described in Example 1(b) was followed, using 3.1 g of thiourea, 7.4 g of 1-cinnamyl-4-(3-chloropropyl)piperazine dihydrochloride, 4,1 g of triethylamine and 100 ml of reagent ethanol. The hydrolysis was effected with 3.0 g of sodium hydroxide in 30 ml of water. Work-up, as described above, gave 3.6 g (52% of theory) of 3-(4-cinnamylpiperazin-1-yl)propanethiol dihydrochloride as a white crystalline solid, M.p. 249°-252° C.

reactant | thiourea | 3.1 g | NC(=S)N | CH4N2S
reactant | 1-cinnamyl-4-(3-chloropropyl)piperazine dihydrochloride | 7.4 g | Cl.Cl.C(C=CC1=CC=CC=C1)N1CCN(CC1)CCCCl
reactant | triethylamine | 4,1 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 3.0 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-cinnamylpiperazin-1-yl)propanethiol dihydrochloride | 3.6 g, 52% | Cl.Cl.C(C=CC1=CC=CC=C1)N1CCN(CC1)CCCS | InChI=1S/C16H24N2S.2ClH/c19-15-5-10-18-13-11-17(12-14-18)9-4-8-16-6-2-1-3-7-16;;/h1-4,6-8,19H,5,9-15H2;2*1H
